datasets/10k_Mayr_OG.csv
SMILES Labelled
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1C(C)(C)C.C[Si:71](C)(C)[CH-:10][N+:61]#[N:62]>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([CH:10]([N+:61]#[N:62])[Si:71](C)(C)C)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1C(C)(C)C 10=20;20,21=21,22;22,23=23"
"C[Si:63](C)(C)[O:12]/[C:11](=[CH:10]\C1=CC=CC=C1)[C:72]1=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]1.Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>C[Si:63](C)(C)[O+:12]=[C:11]([CH:10](C1=CC=CC=C1)[CH:20]([O:21][B-:33](Cl)(Cl)Cl)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:72]1=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]1 10,11=10,20;12=11,12;20,21=21"
"C[N:21]([S:20]C(F)(F)F)[S:32](C1=CC=CC=C1)(=[O:33])=[O:34].[O-:10][C:61]1=[CH:62][CH:63]=[N:64][CH:73]=[CH:72]1>>C[N-:21][S:32](C1=CC=CC=C1)(=[O:33])=[O:34].FC(F)(F)[S:20][O:10][C:61]1=[CH:62][CH:63]=[N:64][CH:73]=[CH:72]1 10=20;20,21=21"
"Cl[C:30]1=[C:31](Cl)[C:32](=[O:33])[C:20](=[O:21])[C:41](Cl)=[C:42]1Cl.[H:10][BH3-:11]>>Cl[C:30]1=[C:31](Cl)[C:32](=[O:33])[C:20]([H:10])([O-:21])[C:41](Cl)=[C:42]1Cl.[BH3:11] 10,11=10,20;20,21=21"
"CN1CC[C:20](=[O:21])CC1.C[Si](C)(C)[N:62]1[CH:61]=[N:10][CH:64]=[CH:63]1>>CN1CC[C:20]([N+:10]2=[CH:61][N:62]([Si](C)(C)C)[CH:63]=[CH:64]2)([O-:21])CC1 10=20;20,21=21"
C1=CC=C([S:61]([CH-:10][C:81]2=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]2)(=[O:62])=[O:72])C=C1.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10]([S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[C:81]2=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]2)([C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"C1=CN(C[C@@H]2CCC[NH:10]2)C=N1.C[O+:21]=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]1>>C[O:21][CH:20]([NH+:10]1CCC[C@H]1CN1C=CN=C1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]1 10=20;20,21=21"
"CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]2[S:32](=[O:33])(=[O:34])CCC[S:41]2(=[O:42])=[O:43])[CH:55]=[CH:56]1.C[C:72]1=[CH:71][N-:10][CH:61]=[N:62]1>>CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]([N:10]2[CH:61]=[N:62][C:72](C)=[CH:71]2)[C-:21]2[S:32](=[O:33])(=[O:34])CCC[S:41]2(=[O:42])=[O:43])[CH:55]=[CH:56]1 10=20;20,21=21"
"[CH:10](=[N+:11]=[N-:12])[C:61]1=[CH:62][CH:63]=[C:64]([C:65]#[N:66])[CH:73]=[CH:72]1.[CH:20]1=[CH:21][C:22](=[O:23])[CH:30]=[CH:31][C:32]1=[O:33]>>[CH:10]([N+:11]#[N:12])([CH:20]1[CH:21]=[C:22]([O-:23])[CH:30]=[CH:31][C:32]1=[O:33])[C:61]1=[CH:62][CH:63]=[C:64]([C:65]#[N:66])[CH:73]=[CH:72]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
CC1=CC(C)=C(C(C)C[CH+:20][C:31]2=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]2C)C(C)=C1.CCCN[C:62]([C@@H:61]1CCC[NH:10]1)=[O:63]>>CCCN[C:62]([C@@H:61]1CCC[NH+:10]1[CH:20](CC(C)C1=C(C)C=C(C)C=C1C)[C:31]1=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]1C)=[O:63] 10=20
"C1C[N:12]([C:11](=[CH2:10])[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)CCO1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH2:10][C:11](=[N+:12]2CCOCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1 10,11=10,20;12=11,12"
CC[O:82][C:61]([CH-:10][P:71](C1=CC=CC=C1)(C1=CC=CC=C1)=[O:72])=[O:62].F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1>>CC[O:82][C:61]([CH:10]([C:20]([C:31]1=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]1)([C:41]1=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]1)[P:71](C1=CC=CC=C1)(C1=CC=CC=C1)=[O:72])=[O:62] 10=20
CC1=CC=CC=C1[P:10](C1=CC=CC=C1C)C1=C(C)C=CC=C1.F[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC1=CC=CC=C1[P+:10](C1=CC=CC=C1C)(C1=C(C)C=CC=C1)[CH:20]([C:31]1=[CH:32][CH:33]=[C:34](F)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]1 10=20
"C/[CH:63]=[CH:62]\[CH:11]=[CH2:10].[C+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1>>C/[CH:63]=[CH:62]\[CH+:11][CH2:10][C:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1 10,11=10,20"
"C[Si:73](C)(C)[CH2:72][C:11](=[CH2:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1.Cl[C:21]1([Cl:20])[C:22](=[O:23])[C:35]2=[C:34](C=CC=C2)[C:33](Cl)=[CH:32]1>>C[Si:73](C)(C)[CH2:72][C+:11]([CH2:10][Cl:20])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1.Cl[C:21]1=[C:22]([O-:23])[C:35]2=[C:34](C=CC=C2)[C:33](Cl)=[CH:32]1 10,11=10,20;20,21=21,22;22,23=23"
